US08053438B2
2-Chloro-3-(5,6-dihydro-2H-pyran-3-yl)pyrazine (0.13 g, 0.68 mmol), 4-aminophenol (0.15 g, 1.35 mmol), and cesium carbonate (0.44 g, 1.35 mmol) were mixed in DMF (2 mL) in a microwave tube. The tube was sealed and placed under a nitrogen atmosphere. The reaction mixture was stirred at 120° C. for 2.5 h. The reaction mixture was cooled to room temperature and diluted with water. The resulting precipitate was filtered and washed with water to give 4-(3-(5,6-dihydro-2H-pyran-3-yl)pyrazin-2-yloxy)aniline. [M+1]=270.1.

reactant | 2-Chloro-3-(5,6-dihydro-2H-pyran-3-yl)pyrazine | 0.68 mmol, 0.13 g | ClC1=NC=CN=C1C=1COCCC1 | C9H9ClN2O
reactant | 4-aminophenol | 1.35 mmol, 0.15 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | cesium carbonate | 1.35 mmol, 0.44 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(3-(5,6-dihydro-2H-pyran-3-yl)pyrazin-2-yloxy)aniline | O1CC(=CCC1)C=1C(=NC=CN1)OC1=CC=C(N)C=C1 | C15H15N3O2
